US09085576B2
Step 3: tert-butyl((1R,5S,6R)-5-(5-(5-chloropyridine-2-sulfonamido)-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate
To a solution of tert-butyl((1R,5S,6R)-5-(5-amino-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate (16i-B, 0.059 g, 0.16 mmol) in DCM (1.5 mL) at 0° C. were added triethylamine (0.070 mL, 0.50 mmol) and 5-chloropyridine-2-sulfonyl chloride (0.034 g, 0.16 mmol). The reaction mixture was allowed to warm up to room temperature over a period of 2 h and then diluted with EtOAc and water. The aqueous phase was extracted with EtOAc (2×). The combined organic extracts were washed with brine and dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel (10% to 50% EtOAc in heptane) to give the title compound (0.061 g, 0.11 mmol, 70% yield) as a colorless oil. MS m/z=547.0 [M+H]+. Calculated for C22H22ClF3N4O5S 546.1.

reactant | tert-butyl((1R,5S,6R)-5-(5-amino-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate | 0.16 mmol, 0.059 g | C(C)(C)(C)OC(NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C1=C(C=CC(=C1)N)F)=O | C17H20F3N3O3
reactant | triethylamine | 0.50 mmol, 0.070 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloropyridine-2-sulfonyl chloride | 0.16 mmol, 0.034 g | ClC=1C=CC(=NC1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | tert-butyl((1R,5S,6R)-5-(5-(5-chloropyridine-2-sulfonamido)-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate | 0.11 mmol, 0.061 g, 70% yield | C(C)(C)(C)OC(NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C1=C(C=CC(=C1)NS(=O)(=O)C1=NC=C(C=C1)Cl)F)=O | C22H22ClF3N4O5S
